US07799822B2
Prepared using general procedure 28, method B. Under N2 atmosphere, a solution of tert-butyl-1-(4-(N-1,2,4-thiadiazol-5-ylsulfamoyl)phenyl)piperidin-4-ylcarbamate (3 g, 7.02 mmol) in 4 M HCl/dioxane (100 mL) was stirred at RT for 16 h. The formed precipitate was filtered off and washed with dioxane (20 mL) to give 4-(4-aminopiperidin-1-yl)-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide (1.88 g, 81%). LC/MS (10%/99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=340; tR=1.28 min.

reactant | tert-butyl-1-(4-(N-1,2,4-thiadiazol-5-ylsulfamoyl)phenyl)piperidin-4-ylcarbamate | 7.02 mmol, 3 g | C(C)(C)(C)OC(NC1CCN(CC1)C1=CC=C(C=C1)S(NC1=NC=NS1)(=O)=O)=O | C18H25N5O4S2
solvent | HCl dioxane | 4 M, 100 mL | Cl.O1CCOCC1
product | 4-(4-aminopiperidin-1-yl)-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide | 1.88 g, 81% | NC1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NS1 | C13H17N5O2S2
